### PR TITLE
[Merged by Bors] - feat(List/rotate): migrate to `get`, new lemmas, golf

### PR DESCRIPTION
**Pull request by urkud**
- Add `List.Nodup.rotate_congr_iff`, `List.cyclicPermutations_ne_nil`,
  `List.head?_cyclicPermutations`, `List.head_cyclicPermutations`,
  `List.cyclicPermutations_injective`, `List.cyclicPermutations_inj`.
- Change `List.nthLe_cyclicPermutations` to
  `List.get_cyclicPermutations`. While the old lemma wasn't deprecated
  during port, the definition `List.nthLe` was,
  so I think that we can drop the lemma without a deprecation period.

---

- [x] depends on: #12170

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Rotate.lean [hunk 1]
```diff
@@ -584,109 +576,103 @@ theorem length_cyclicPermutations_of_ne_nil (l : List α) (h : l ≠ []) :
...
 @[simp]
-theorem nthLe_cyclicPermutations (l : List α) (n : ℕ) (hn : n < length (cyclicPermutations l)) :
-    nthLe (cyclicPermutations l) n hn = l.rotate n := by
-  obtain rfl | h := eq_or_ne l []
-  · simp
-  · rw [length_cyclicPermutations_of_ne_nil _ h] at hn
-    simp [dropLast_eq_take, cyclicPermutations_of_ne_nil _ h, nthLe_take',
-      rotate_eq_drop_append_take hn.le]
-#align list.nth_le_cyclic_permutations List.nthLe_cyclicPermutations
+theorem cyclicPermutations_ne_nil : ∀ l : List α, cyclicPermutations l ≠ []
```
Comment (grunweg) [inline Mathlib/Data/List/Rotate.lean:580]: Can `l : List α` be moved left of the colon?

**Review by grunweg — APPROVED** [review]
Thank you for doing this!

I verified that all existing lemmas are kept (sometimes moved); only changes are for nthLe -> in theorem statements. I did not scrutinize the new proofs carefully; they broadly look nicer than the old ones.

While there's no agreed policy on deprecations yet, not deprecating these lemmas for a while seems fine to me.

**Review by fpvandoorn — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Data/List/Rotate.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Data/List/Rotate.lean:580]: Why?

Comment (urkud) [reply Mathlib/Data/List/Rotate.lean:580]: If you want to move it, then please push to this branch. Otherwise, just merge it, please.

bors d=grunweg

Comment (grunweg) [reply Mathlib/Data/List/Rotate.lean:580]: That is a fair point. (I was trying to understand why "hypothesis left of colon" was not followed - sounds like you have a good reason. Thanks for educating me!)
